US08067445B2
Step 2: {2′-[((R)-Acetyl-indan-1-yl-amino)-methyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid methyl ester
Prepared according to the procedure described in Example 1, Step 6, using the following starting materials: [2′-((R)-indan-1-ylaminomethyl)-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid methyl ester and acetyl chloride.

reactant | [2′-((R)-indan-1-ylaminomethyl)-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid methyl ester | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN[C@@H]1CCC2=CC=CC=C12)=O | C27H26F3NO3
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | {2′-[((R)-Acetyl-indan-1-yl-amino)-methyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid methyl ester | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN([C@@H]1CCC2=CC=CC=C12)C(C)=O)=O | C29H28F3NO4
